US08183275B2
Sodium azide (625 mg, 9.6 mmol) followed by ammonium chloride (514 mg, 9.6 mmol) were added to a solution of 2-(3,4-difluorophenyl)oxirane (1 g, 6.4 mmol) in methanol (10 mL) and water (2.5 mL). After stirring at 80° C. overnight, the reaction mixture was concentrated to give a residue. The residue was partitioned between water and ethyl acetate. The organic phase was washed with brine, dried (sodium sulfate) and concentrated to give a residue. Chromatography of the residue over silica gel eluting with 10-50% ethyl acetate/hexane afforded 2-azido-1-(3,4-difluorophenyl)ethanol.

reactant | Sodium azide | 9.6 mmol, 625 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 9.6 mmol, 514 mg | [Cl-].[NH4+]
reactant | 2-(3,4-difluorophenyl)oxirane | 6.4 mmol, 1 g | FC=1C=C(C=CC1F)C1OC1 | C8H6F2O
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 2.5 mL | O | H2O
product | 2-azido-1-(3,4-difluorophenyl)ethanol | N(=[N+]=[N-])CC(O)C1=CC(=C(C=C1)F)F | C8H7F2N3O
